US09399640B2
Step 3. Methyl {[3-(2,4-difluorophenoxy)-4-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-4-yl)-2-nitrophenyl]amino}acetate
This compound was synthesized according to the procedure of Example 10, Step 5, using methyl {[4-bromo-3-(2,4-difluorophenoxy)-2-nitrophenyl]amino}acetate and 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one as the starting materials. LCMS calculated for C28H32F2N5O7Si (M+H)+: m/z=616.2. found: 616.2.

reactant | methyl {[4-bromo-3-(2,4-difluorophenoxy)-2-nitrophenyl]amino}acetate | BrC1=C(C(=C(C=C1)NCC(=O)OC)[N+](=O)[O-])OC1=C(C=C(C=C1)F)F | C15H11BrF2N2O5
reactant | 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=NN2COCC[Si](C)(C)C)=O | C19H32BN3O4Si
product | Methyl {[3-(2,4-difluorophenoxy)-4-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-4-yl)-2-nitrophenyl]amino}acetate | FC1=C(OC=2C(=C(C=CC2C=2C3=C(C(N(C2)C)=O)N(N=C3)COCC[Si](C)(C)C)NCC(=O)OC)[N+](=O)[O-])C=CC(=C1)F | C28H31F2N5O7Si
